US08017607B2
To a solution of 4-chloro-2-fluorophenylacetonitrile (Matrix) (5 g, 30 mmol) and 3-chloro-2-fluorobenzaldehyde (Oakwood) (5 g, 32 mmol) in methanol (200 mL) was slowly added a methanolic solution (Aldrich, 25 wt. %) of sodium methoxide (21 mL, 92 mmol). The reaction mixture was heated and stirred at 45° C. for 5 h. The mixture was cooled to room temperature and filtered. The white precipitate was washed with water, cold methanol, and then dried under reduced pressure to afford (Z)-3-(3-chloro-2-fluoro-phenyl)-2-(4-chloro-2-fluoro-phenyl)-acrylonitrile as a white powder (8 g, 86%).

reactant | 4-chloro-2-fluorophenylacetonitrile | 30 mmol, 5 g | ClC1=CC(=C(C=C1)CC#N)F | C8H5ClFN
reactant | 3-chloro-2-fluorobenzaldehyde | 32 mmol, 5 g | ClC=1C(=C(C=O)C=CC1)F | C7H4ClFO
reactant | sodium methoxide | 92 mmol, 21 mL | C[O-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | (Z)-3-(3-chloro-2-fluoro-phenyl)-2-(4-chloro-2-fluoro-phenyl)-acrylonitrile | 8 g, 86% | ClC=1C(=C(C=CC1)\C=C(/C#N)\C1=C(C=C(C=C1)Cl)F)F | C15H7Cl2F2N
